Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
rectal pain
 
Major Surgical or Invasive Procedure:
Diverting Colostomy
Portacath Placement

 
History of Present Illness:
Mr. ___ is a ___ PMHx HIV and genital warts who presents 
with rectal pain.
He reports that his rectal pain has been ongoing for months.  He 
states that several weeks ago, he developed bleeding from his 
rectum and has been padding the area with toilet paper to stop 
the bleeding.  He intermittently has noticed blood clots as well 
as some purulent discharge. He states that the bleeding soaks 
through several pads of toilet paper daily and he occasionally 
feels lightheaded.  He was urged by his mother to present today 
to the ED.

In the ED, initial VS 97.4, 156, 136/90, 18, 100% on RA.  He 
immediately received 1L NS after which his HR improved to the 
100s-110s.  His exam was notable for large rectal mass with 
bloody drainage.  Labs were notable for Na 128, Cr 0.8, WBC 
19.8, Hgb 12.9, Plt 447, lactate 3.6.  Repeat lactate wnl 
following IVF.  Colorectal Surgery was c/s'd who recommended MR 
___ and will continue to follow on the floor re: concern for 
anal cancer.

Upon arrival to the floor, the patient reports rectal discomfort 
and states he cannot tolerate lying on his back or sitting.  He 
states having some anxiety and wonders how long the work-up of 
his rectal mass will take. He denies any abdominal pain, n/v, 
weight loss, fevers/chills/ns.  
 
Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  

 
Past Medical History:
- HIV (diagnosed about ___ years ago, reportedly undetectable 
viral load: he is on a clinical trial with Gilead which involves 
a medication combination Truvada + Trial Drug, one tablet QHS -- 
patient has it with him)
- H/o rectal condyloma ___ HPV
- H/o syphilis (s/p IM penicillin treatment about ___ years ago)
- H/o gonorrhea (~ ___ years ago)
- Hypertension
 
Social History:
___
Family History:
- Mother: breast cancer in ___, s/p successful treatment.
- No family history of colon or rectal cancer or other 
malignancies.
 
Physical Exam:
PE on admission:
Vitals-  98.0 119 / 73 112 18 97 RA 
GEN: Pleasant, A&Ox3, young man in mild discomfort, quite 
anxious.
HEENT: Anicteric sclera, MMM, oropharynx wnl.
COR: Tachycardic, regular, no murmurs.
LUNGS: CTAB
ABD: Soft, NTND
Rectal: Extremely large mass that appears to fungating around 
and originate from the rectum and extend in an erosive manner to 
involve bilateral ___ and buttock area. Purulent and 
bloody discharge. Rectal exam not performed due to apparent 
fragility of tissue.
EXT: No edema

PE on d/c
GEN: Pleasant, A&Ox3, 
HEENT: Anicteric sclera, MMM, oropharynx wnl.
COR: RRR, no murmurs.
LUNGS: CTAB
ABD: Soft, NTND, stoma in Lt abdomen some dusy looking mucosa on 
the top.
Rectal: still rectal mass not bleeidng, ofensive odor.
EXT: No edema
Port  a cath placed lt ant chest wall.
 
Pertinent Results:
___ 11:54PM   LACTATE-1.3
___ 11:44PM   GLUCOSE-95 UREA N-6 CREAT-0.6 SODIUM-129* 
POTASSIUM-3.9 CHLORIDE-94* TOTAL CO2-18* ANION GAP-21*
___ 07:00PM   LACTATE-3.6*
___ 06:50PM   GLUCOSE-119* UREA N-6 CREAT-0.8 SODIUM-128* 
POTASSIUM-4.0 CHLORIDE-89* TOTAL CO2-15* ANION GAP-28*
___ 06:50PM   WBC-19.8* RBC-4.42* HGB-12.9* HCT-36.2* 
MCV-82 MCH-29.2 MCHC-35.6 RDW-12.3 RDWSD-36.8
___ 06:50PM   NEUTS-72.2* LYMPHS-16.7* MONOS-9.6 EOS-0.1* 
BASOS-0.4 IM ___ AbsNeut-14.31* AbsLymp-3.30 AbsMono-1.91* 
AbsEos-0.02* AbsBaso-0.08
___ 06:50PM   PLT COUNT-447*
___ 06:50PM   ___ PTT-29.6 ___

Micro:
___ BCx x 2 pending
 
Imaging/Studies:  
___ MR PELVIS pending
___ 09:50AM BLOOD WBC-9.2 RBC-3.15* Hgb-8.9* Hct-27.9* 
MCV-89 MCH-28.3 MCHC-31.9* RDW-13.0 RDWSD-42.2 Plt ___
___ 06:50PM BLOOD Neuts-72.2* Lymphs-16.7* Monos-9.6 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-14.31* AbsLymp-3.30 
AbsMono-1.91* AbsEos-0.02* AbsBaso-0.08
___ 07:52AM BLOOD ___ PTT-28.9 ___
___ 10:50AM BLOOD Glucose-98 UreaN-8 Creat-0.5 Na-138 K-3.6 
Cl-103 HCO3-27 AnGap-12
___ 10:50AM BLOOD Calcium-8.1* Phos-3.3 Mg-2.2
___ 11:54PM BLOOD Lactate-1.3

PATHOLOGIC DIAGNOSIS:
1. Anal verge, right, biopsy:
Squamous cell carcinoma, poorly differentiated and with basaloid 
features .
2. Anal verge, left, biopsy:
Squamous cell carcinoma, poorly differentiated and with basaloid 
features .
Note: The tumor is immunoreactive for p63 and CK7 and is 
negative for CK20 and CDX-2.

 
Brief Hospital Course:
The patient with the above mentioned HPI was transferred to our 
service in order to manage his anal-rectal mass. 
The patient had the following during his admission :

1. Bed side Bx from both glutel fold- later Dx as SCC per path 
report
2. To help manage his future treatment and to perevent him from 
contaminating the area he had diverting loop colostomy
3. Pt had a port placemat for future CTx.
4. medical oncology and Radiation oncology team saw and examined 
the patient and had 
   a  discussion with him about the future plan for chemo and 
radio therapy.
5. The patient was tattooed for irradiation planning.
6. he had MRI that showed Anorectal mass with extensive 
locoregional involvement as described above. Stage T4N3Mx . and 
a CT torso for staging which showed: Suspicious lymph nodes in 
the abdomen, retroperitoneum and pelvis. chest was negative for 
mets.

The patient was schedule to have a PET-CT on the day of his d/c 
and before seen in the ___ later this week.

In terms of his surgery recovery:
He tolerated the procedure well without complications (Please 
see operative note for further details). After a brief and 
uneventful stay in the PACU, the patient was transferred to the 
floor for further post-operative management.  
 Neuro: Pain was well controlled on oxycodone and tylenol  
 CV: Vital signs were routinely monitored during the patient's 
length of stay.  
 Pulm: The patient was encouraged to ambulate, sit and get out 
of bed, use the incentive spirometer, and had oxygen saturation 
levels monitored as indicated.  
 GI: The patient was initially kept NPO after the procedure. The 
patient was later advanced to and tolerated a regular diet at 
time of discharge.  
 GU: Patient had a Foley catheter inserted in surgery that was 
removed at the end of he case . Urine output was monitored as 
indicated. At time of discharge, the patient was voiding without 
difficulty.  
 ID: The patient's vital signs were monitored for signs of 
infection and fever.  Heme: The patient had blood levels checked 
post operatively during the hospital course to monitor for signs 
of bleeding. The patient had vital signs, including heart rate 
and blood pressure, monitored throughout the hospital stay.  
 het was discharged to home. At discharge, he was tolerating a 
regular diet, passing flatus, stooling from his ostomy, voiding, 
and ambulating independently. He will follow-up in the clinic in 
___ weeks. This information was communicated to the patient 
directly prior to discharge.  
In terms of his HIV: We obtained records from his prior PCP/HIV 
specialist, Dr. ___, ___), which 
showed was apparently diagnosed with HIV-1 Subtype B in ___, at which time his CD4 count was 260.  His full treatment 
history is unavailable, but on admission he had an taking a 
trial medication - ___ (trial drug) + Truvada (200/25 mg), 
and his CD4 count on admission was >1000 and viral load 
undetectable.

he is being D/c home to be followed in our ___ this week.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ___ + Truvada (200/25 mg) Study Med 50 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Moderate 
do not take more than 3000mg of Tylenol or drink alcohol while 
taking this medication 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*45 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID  
3.  Enoxaparin Sodium 40 mg SC DAILY 
RX *enoxaparin 40 mg/0.4 mL 40 mg sc once a day Disp #*30 
Syringe Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
do not drink alcohol or drive a car while taking this medication 

RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*45 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY  
6.  ___ + Truvada (200/25 mg) Study Med 50 mg PO DAILY  
7.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Anal Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ were admitted to the hospital after a Laparoscopic Diverting 
Colostomy for surgical management of your Anal Cancer. ___ have 
recovered from this procedure well and ___ are now ready to 
return home. Samples of tissue were taken and this tissue has 
been sent to the pathology department for analysis. ___ will 
receive these pathology results at your follow-up appointment. 
If there is an urgent need for the surgeon to contact ___ 
regarding these results they will contact ___ before this time. 
___ have tolerated a regular diet, are passing gas and your pain 
is controlled with pain medications by mouth. ___ may return 
home to finish your recovery.  
 
Please monitor your bowel function closely. ___ have a new 
colostomy. It is important to monitor the output from this 
stoma. It is expected that the stool from this ostomy will be 
solid and formed like regular stool. ___ should have ___ bowel 
movements daily. If ___ notice that ___ have not had any stool 
from your stoma in ___ days, please call the office. ___ may 
take an over the counter stool softener such as Colace if ___ 
find that ___ are becoming constipated from narcotic pain 
medications. Please watch the appearance of the stoma, it should 
be beefy red/pink, if ___ notice that the stoma is turning 
darker blue or purple, or dark red please call the office for 
advice. The stoma (intestine that protrudes outside of your 
abdomen) should be beefy red or pink, it may ooze small amounts 
of blood at times when touched and this should subside with 
time. The skin around the ostomy site should be kept clean and 
intact. Monitor the skin around the stoma for bulging or signs 
of infection listed above. Please care for the ostomy as ___ 
have been instructed by the wound/ostomy nurses. ___ will be 
able to make an appointment with the ostomy nurse in the clinic 
7 days after surgery. ___ will have a visiting nurse at home for 
the next few weeks helping to monitor your ostomy until ___ are 
comfortable caring for it on your own.  

If ___ have any of the following symptoms please call the office 
for advice ___: 
fever greater than 101.5
increasing abdominal distension
increasing abdominal pain 
nausea/vomiting
inability to tolerate food or liquids
prolonged loose stool
extended constipation  
inability to urinate

Incisions:
___ have ___ laparoscopic surgical incisions on your abdomen 
which are closed with internal sutures. These are healing well 
however it is important that ___ monitor these areas for signs 
and symptoms of infection including: increasing redness of the 
incision lines, white/green/yellow/malodorous drainage, 
increased pain at the incision, increased warmth of the skin at 
the incision, or swelling of the area.

___ may shower; pat the incisions dry with a towel, do not rub. 
The small incisions may be left open to the air. If closed with 
steri-strips (little white adhesive strips), these will fall off 
over time, please do not remove them. Please no baths or 
swimming until cleared by the surgical team. 

Pain
It is expected that ___ will have pain after surgery and this 
pain will gradually improved over the first week or so ___ are 
home. ___ will especially have pain when changing positions and 
with movement. ___ should continue to take 2 Extra Strength 
Tylenol (___) for pain every 8 hours around the clock and ___ 
may also take Advil (Ibuprofen) 600mg every hours for 7 days. 
Please do not take more than 3000mg of Tylenol in 24 hours or 
any other medications that contain Tylenol such as cold 
medication. Do not drink alcohol while or Tylenol. Please take 
Advil with food. If these medications are not controlling your 
pain to a point where ___ can ambulate and preform minor tasks, 
___ should take a dose of the narcotic pain medication 
Oxycodone. Please take this only if needed for pain. Do not take 
with any other sedating medications or alcohol. Do not drive a 
car if taking narcotic pain medications. 

Activity
___ may feel weak or "washed out" for up to 6 weeks after 
surgery. No heavy lifting greater than a gallon of milk for 3 
weeks. ___ may climb stairs. ___ may go outside and walk, but 
avoid traveling long distances until ___ speak with your 
surgical team at your first follow-up visit. Your surgical team 
will clear ___ for heavier exercise and activity as the observe 
your progress at your follow-up appointment. ___ should only 
drive a car on your own if ___ are off narcotic pain medications 
and feel as if your reaction time is back to normal so ___ can 
react appropriately while driving. 

For your HIV, your CD4 count was excellent (>1000), and your HIV 
Viral load was _______. We have arranged for ___ to follow up 
with an infectious disease specialist, Dr. ___, to 
establish care locally for your HIV.  
 
Followup Instructions:
___